### PR TITLE
[Merged by Bors] - feat(CategoryTheory/MorphismProperty): generalize to CategoryStructs

### PR DESCRIPTION
**Pull request by callesonne**
This generalizes some parts of `MorphismProperty` that only use the data underlying a `Cateogory` (i.e. everything in the file not mentioning isomorphisms or functors, although arguably functors should only use `CategoryStruct`s also...).

This will be useful for bicategories and stacks.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 1]
```diff
@@ -98,6 +100,12 @@ theorem unop_op (P : MorphismProperty C) : P.op.unop = P :=
 theorem op_unop (P : MorphismProperty Cᵒᵖ) : P.unop.op = P :=
   rfl
 
+end
+
+section
+
+variable {C : Type u} [Category C] {D : Type*} [Category D]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]:
```suggestion
variable {C : Type u} [Category.{v} C] {D : Type*} [Category D]
```

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 2]
```diff
@@ -203,7 +217,11 @@ instance RespectsRight.inf (P₁ P₂ Q : MorphismProperty C) [P₁.RespectsRigh
     [P₂.RespectsRight Q] : (P₁ ⊓ P₂).RespectsRight Q where
   postcomp i hi f hf := ⟨postcomp i hi f hf.left, postcomp i hi f hf.right⟩
 
-variable (C)
+end
+
+section
+
+variable (C : Type u) [Category C]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]:
```suggestion
variable (C : Type u) [Category.{v} C]
```

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 3]
```diff
@@ -476,7 +502,7 @@ def pi {J : Type w} {C : J → Type u} [∀ j, Category.{v} (C j)]
     (W : ∀ j, MorphismProperty (C j)) : MorphismProperty (∀ j, C j) :=
   fun _ _ f => ∀ j, (W j) (f j)
 
-variable {C}
+variable {C} [Category C]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]:
```suggestion
variable {C} [Category.{v} C]
```

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 4]
```diff
@@ -494,6 +520,8 @@ end MorphismProperty
 
 namespace NatTrans
 
+variable {C : Type u} [Category C] {D : Type*} [Category D]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]:
```suggestion
variable {C : Type u} [Category.{v} C] {D : Type*} [Category D]
```

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 5]
```diff
@@ -171,6 +179,12 @@ lemma ofHoms_homFamily (P : MorphismProperty C) : ofHoms P.homFamily = P := by
   · intro hf
     exact ⟨(⟨f, hf⟩ : P.toSet)⟩
 
+end
+
+section
+
+variable {C : Type u} [CategoryStruct C]
```
Comment (callesonne) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]:
```suggestion
variable {C : Type u} [CategoryStruct.{v} C]
```
